US07851473B2
N-[6-(Acetylamino)pyridin-3-yl]-4-[4-(3-fluorophenyl)-1,3-thiazol-2-yl]piperazine-1-carboxamide
A mixture of 2,2,2-trichloroethyl [6-(acetylamino)pyridin-3-yl]carbamate (273 mg, 0.835 mmol), 1-[4-(3-fluorophenyl)-1,3-thiazol-2-yl]piperazine (200 mg, 0.760 mmol) and diisopropylethylamine (0.265 ml, 1.52 mmol) in dimethyl sulfoxide (2.5 ml) was stirred at 70° C. for 3 days. Water was poured to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with water, and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was recrystallized from a mixed solvent of hexane and tetrahydrofuran to give 137 mg (40.8%) of the desired product as a solid.

reactant | 2,2,2-trichloroethyl [6-(acetylamino)pyridin-3-yl]carbamate | 0.835 mmol, 273 mg | C(C)(=O)NC1=CC=C(C=N1)NC(OCC(Cl)(Cl)Cl)=O | C10H10Cl3N3O3
reactant | 1-[4-(3-fluorophenyl)-1,3-thiazol-2-yl]piperazine | 0.760 mmol, 200 mg | FC=1C=C(C=CC1)C=1N=C(SC1)N1CCNCC1 | C13H14FN3S
reactant | diisopropylethylamine | 1.52 mmol, 0.265 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | dimethyl sulfoxide | 2.5 ml | CS(=O)C | C2H6OS
product | N-[6-(Acetylamino)pyridin-3-yl]-4-[4-(3-fluorophenyl)-1,3-thiazol-2-yl]piperazine-1-carboxamide | 137 mg, 40.8% | C(C)(=O)NC1=CC=C(C=N1)NC(=O)N1CCN(CC1)C=1SC=C(N1)C1=CC(=CC=C1)F | C21H21FN6O2S
